US06235727B1
(R)-[1-(4′-Chlorobiphenyl-4-sulfonylamino)2-methylpropyl]-phosphonic Acid
250 mg (1.6 mmol) of (R)-(1-amino-2-methylpropyl)phosphonic acid were dissolved in 6 ml of a 1 M NaOH and 6 ml of tetrahydrofuran. 560 mg (1.96 mmol) of 4-chlorobiphenyl-4′-sulfonyl chloride were then added and the mixture was stirred at 22° C. overnight. The reaction mixture was concentrated, acidified with 2 M HCl and extracted with ethyl acetate. The 4-chlorobiphenyl-4′-sulfonic acid resulting as a by-product precipitated and was separated off. After drying and concentrating the ethyl acetate phase, a solid was obtained.

reactant | (R)-(1-amino-2-methylpropyl)phosphonic acid | 1.6 mmol, 250 mg | N[C@@H](C(C)C)P(O)(O)=O | C4H12NO3P
reactant | 4-chlorobiphenyl-4′-sulfonyl chloride | 1.96 mmol, 560 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8Cl2O2S
solvent | NaOH | 1 M | [OH-].[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | (R)-[1-(4′-Chlorobiphenyl-4-sulfonylamino)2-methylpropyl]-phosphonic Acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)P(O)(O)=O | C16H19ClNO5PS
